US05290934
Employing ethyl 1-(4-fluorophenyl)-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (0.56 g), conc. hydrochloric acid (1.5 ml), and 90 % acetic acid (6 ml), the procedure of Reference Example 10 is repeated to give 1-(4-fluorophenyl)-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.49 g), as white crystals, m.p. 255°-257° C.

reactant | ethyl 1-(4-fluorophenyl)-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.56 g | FC1=CC=C(C=C1)N1C=C(C(C2=C(C(=C(C=C12)F)F)C)=O)C(=O)OCC | C19H14F3NO3
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 1-(4-fluorophenyl)-5-methyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.49 g | FC1=CC=C(C=C1)N1C=C(C(C2=C(C(=C(C=C12)F)F)C)=O)C(=O)O | C17H10F3NO3
